US04028385
Then, 501 g of farnesyl bromide as mentioned above and 285 g of diethyl malonate in 1,500 ml of ethanol were subjected to a condensation reaction in the presence of 37.1 g of metallic sodium. The reaction mixture was poured into water and extracted with ether. The organic layer was dried over anhydrous sodium sulfate. After removing the solvent, the residue was fractionated in vacuo to give 378 g of diethyl farnesylmalonate, b.p. 155° - 160° C. (0.2 mmHg). This product was saponified and decarboxylated in 1,000 ml of ethanol with 204 g of potassium hydroxide. The reaction mixture was neutralized with hydrochloric acid and extracted with ether. After removing the solvent, the residue was fractionated in vacuo to give 218 g of farnesylacetic acid, b.p. 142° - 150° C. (0.2 mmHg). The gas chromatographic analysis using 5% of polyethylene glycol 20 M (PGE-20M. for short) on kieselguhr (60- 80 mesh) at 180° C. of the column temperature, indicated that the substance was a mixture of stereo-isomers, 16% of Δ4,8 -cis-isomer, 48% of Δ4 -cis-Δ 8 -trans- and Δ4 -trans-Δ 8 -cis-isomers, and 36% of Δ4 -trans-Δ 8 -trans-isomer. By further fractionation through a rectifying column with 40 theoretical plates, was obtained 56.5 g of Δ4,8 -trans-farnesylacetic acid, b.p. 147° - 149° C. (0.2 mmHg). This showed that the Δ4,8 -trans-isomer was recovered in a yield of 72% based on the amount contained in the mixture. Subsequently, 150 g of farnesylacetic acid, which was obtained as the first distillate, was isomerized by heating with 0.15 g of acetylacetonatoruthenium RU (AA)3 at 200° C. in a nitrogenous atmosphere. By gas chromatographic analysis, the ratio of Δ4,8 -cis-isomer, Δ4 -cis-Δ 8 -trans-isomer+ Δ4 -trans-Δ 8 -cis-isomer and Δ4,8 -trans-isomer was 23.3:69.7:7.0 in the starting farnesylacetic acid and was 17.7:52.9:29.4 after isomerization.

reactant | farnesyl bromide | 501 g | C(C=C(C)CCC=C(C)CCC=C(C)C)Br | C15H25Br
reactant | diethyl malonate | 285 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 37.1 g | [Na] | Na
reactant | water | O | H2O
solvent | ethanol | 1,500 ml | C(C)O | C2H6O
product | diethyl farnesylmalonate | 378 g | C(C=C(C)CCC=C(C)CCC=C(C)C)C(C(=O)OCC)C(=O)OCC | C22H36O4
